* MC1496 / LM1496 Balanced Modulator — Behavioral SPICE Subcircuit
* For ngspice / Qucs-S (ngspice backend)
*
* Subcircuit terminals:
*   SIG_P   Signal port +   (control +, 0V reference for AGC null)
*   SIG_N   Signal port -   (control -, receives scaled V_AGC)
*   CAR_P   Carrier port +  (14 MHz RF input)
*   CAR_N   Carrier port -  (bypass to GND via 100nF cap in application)
*   OUT_P   Output +        (open-collector NPN, sinks to VEE)
*   OUT_N   Output -        (open-collector NPN, sinks to VEE)
*   VCC     Positive supply (+12V)
*   VEE     Negative supply (-8.2V)
*   BIAS    Bias pin        (connect 1kΩ to VEE externally)
*   GAIN_RE Gain-set pin    (connect RE_ext to VEE; 1kΩ → Iee ≈ 1mA)
*
* Transfer function (Gilbert cell 4-quadrant multiply):
*   I(OUT_P sink) = (Iee/2) * [1 + tanh(Vcar/2Vt) * tanh(Vsig/2Vt)]
*   I(OUT_N sink) = (Iee/2) * [1 - tanh(Vcar/2Vt) * tanh(Vsig/2Vt)]
*   where Vcar = V(CAR_P,CAR_N), Vsig = V(SIG_P,SIG_N), Vt = 26.5mV
*
* Carrier null condition: V(SIG_P) = V(SIG_N)  [control differential = 0]
* Linear control range: |Vsig| < ~100mV;  saturates beyond ~500mV
* Max Iee: set .PARAM Iee inside subcircuit; default 1mA (RE_ext = 1kΩ)
*
* Pin numbers for DIP-14 package (verify against ON Semi MC1496 datasheet):
*   SIG_P → pin 1 (or 5), SIG_N → pin 4, CAR_P → pin 6, CAR_N → pin 8
*   OUT_P → pin 10, OUT_N → pin 12, VCC → pin 13, VEE → pin 7
*   BIAS  → pin 2,  GAIN_RE → pin 5 (or 14) — CONFIRM WITH DATASHEET
*
.SUBCKT MC1496 SIG_P SIG_N CAR_P CAR_N OUT_P OUT_N VCC VEE BIAS GAIN_RE

.PARAM Vt=26.5m        ; thermal voltage at 27°C
.PARAM Iee=1.0m        ; tail current; change to match actual RE_ext

* Input port resistances (approximate; from ON Semi datasheet)
RCAR   CAR_P CAR_N  2K       ; differential carrier port input impedance
RSIG   SIG_P SIG_N  100K     ; differential signal port input impedance

* Carrier input capacitance (~5 pF)
CCAR   CAR_P CAR_N  5P

* DC bias paths (prevent floating nodes in DC analysis)
RBIAS  BIAS    VEE   200      ; internal emitter resistance, signal port
RRE    GAIN_RE VEE   200      ; internal emitter resistance, gain set

* Output collector capacitance (~2 pF at 14 MHz operating frequency)
COUT_P OUT_P VEE  2P
COUT_N OUT_N VEE  2P

* Output impedance of NPN collector stages (~100kΩ)
ROUT_P OUT_P VEE  100K
ROUT_N OUT_N VEE  100K

* Gilbert cell: four-quadrant analog multiplier
* Conventional current direction: OUT_x → VEE  (NPN collectors sink current)
BOUT_P OUT_P VEE I={(Iee/2)*(1+tanh(V(CAR_P,CAR_N)/(2*Vt))*tanh(V(SIG_P,SIG_N)/(2*Vt)))}
BOUT_N OUT_N VEE I={(Iee/2)*(1-tanh(V(CAR_P,CAR_N)/(2*Vt))*tanh(V(SIG_P,SIG_N)/(2*Vt)))}

.ENDS MC1496
